US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 3-pyridine-boronic acid to give (5-methyl-1H-pyrazol-3-yl)-(1-pyridin-3-yl-5-methoxy-isoquinolin-3-yl)-amine. LC-MS m/e 332(MH+).

reactant | (1-chloro-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 3-pyridine-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | (5-methyl-1H-pyrazol-3-yl)-(1-pyridin-3-yl-5-methoxy-isoquinolin-3-yl)-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC(=C2C1)OC)C=1C=NC=CC1 | C19H17N5O
